US07396847B2
[3-(4-Bromo-3-fluorophenyl)-4,5-dihydroisoxazol-5-yl]methylamine
5-(Azidomethyl)-3-(4-bromo-3-fluorophenyl)-4,5-dihydroisoxazole (8.046 g, 26.9 mmol) was dissolved in a mixture of acetonitrile (40 ml) and water (4 ml). Triphenylphosphine (8.48 g, 32.3 mmol) was added and the reaction mixture stirred at room temperature for 48 hours. The reaction mixture was then poured onto a silica gel chromatography column (400 ml). The product was eluted with 10% to 20% water/acetonitrile, then freeze dried to yield 2.67 g of the desired compound.

reactant | 5-(Azidomethyl)-3-(4-bromo-3-fluorophenyl)-4,5-dihydroisoxazole | 26.9 mmol, 8.046 g | N(=[N+]=[N-])CC1CC(=NO1)C1=CC(=C(C=C1)Br)F | C10H8BrFN4O
reactant | Triphenylphosphine | 32.3 mmol, 8.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | water | 4 ml | O | H2O
product | [3-(4-Bromo-3-fluorophenyl)-4,5-dihydroisoxazol-5-yl]methylamine | 2.67 g | BrC1=C(C=C(C=C1)C1=NOC(C1)CN)F | C10H10BrFN2O
